US04497963
Agitated in a reaction vessel are 116 parts of 1,6-hexamethylenediamine with 346 parts of O-octyl carbamate, 3 parts sodium octylate and 1500 parts of n-octanol at a reflux temperature of 185° C.-195° C. for 12 hours while the ammonia is removed by distillation. The resulting precipitate is removed from the reaction mixture by means of filtration after cooling to 100° C.-110° C. The reaction is allowed to crystallize by cooling to room temperature. By means of filtration, washing with n-octanol and drying, 242 parts of 1,6-bis(octoxycarbonylamino)hexane is obtained corresponding with 56.5 percent of theory. The melting point is 106° C.-107° C.

reactant | 1,6-hexamethylenediamine | C(CCCN)CCN | C6H16N2
reactant | O-octyl carbamate | C(N)(OCCCCCCCC)=O | C9H19NO2
reactant | sodium octylate | CCCCCCCC[O-].[Na+]
reactant | ammonia | N | H3N
reactant | n-octanol | C(CCCCCCC)O | C8H18O
product | 1,6-bis(octoxycarbonylamino)hexane | C(CCCCCCC)OC(=O)NCCCCCCNC(=O)OCCCCCCCC | C24H48N2O4
